US05780465
25. Preparation of 4-(3-Fluorobenzylthio)-5-(2,2-dimethylindan-1-yl)pyrimidine (Cpd. 148)
A mixture of 0.57 g (0.002 mol) of 4-mercapto-5-(2,2-dimethylindan-1-yl)pyrimidine, 0.57 g (0.003 mol) of 3-fluorobenzyl bromide, and 0.41 g (0.003 mol) in 10 mL of acetonitrile was stirred at ambient temperature for 2 hr. Saturated aqueous ammonium carbonate (5 mL) was added and the mixture obtained was extracted with ethyl acetate. The extract solution was washed with water and with concentrated aqueous sodium chloride and then was dried over sodium sulfate and concentrated by evaporation under reduced pressure. The resulting oil was low pressure liquid chromatographed on silica gel eluting first with hexane and then with a 20:80 by volume mixture of ethyl acetate and hexane. The eluent fractions containing the major component were concentrated by evaporation under reduced pressure to obtain the title compound as a white solid melting at 60°-62° C.

reactant | 4-mercapto-5-(2,2-dimethylindan-1-yl)pyrimidine | 0.002 mol, 0.57 g | SC1=NC=NC=C1C1C(CC2=CC=CC=C12)(C)C | C15H16N2S
reactant | 3-fluorobenzyl bromide | 0.003 mol, 0.57 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | ammonium carbonate | 5 mL | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(3-Fluorobenzylthio)-5-(2,2-dimethylindan-1-yl)pyrimidine | FC=1C=C(CSC2=NC=NC=C2C2C(CC3=CC=CC=C23)(C)C)C=CC1 | C22H21FN2S
